US08877758B2
26.1 (4-fluoro-2-nitrophenyl)-methylamine
7.3 g of 1,4-difluoro-2-nitrobenzene are slowly added to 30 ml of a 40% aqueous methylamine solution whilst cooling with ice and the reaction mixture is stirred for 1 hour at ambient temperature. The precipitated product is suction filtered and recrystallised from water and ethanol. 6.3 g product are obtained as a solid. M.p=74-76° C.

reactant | 1,4-difluoro-2-nitrobenzene | 7.3 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | methylamine | CN | CH5N
product | (4-fluoro-2-nitrophenyl)-methylamine | 6.3 g | FC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C7H7FN2O2
